US07030139B2
58C: 3-(cyclopropylmethyl)-2-[(4-ethoxyphenyl)methyl]-6-nitro-3H-imidazo[4,5-b]pyridine
To a solution of N2-(cyclopropylmethyl)-5-nitro-2,3-pyridinediamine (792 mg, 3.80 mmol) in dichloromethane (50 mL) at room temperature was added 4-ethoxy-benzeneacetyl chloride (795 mg, 4.00 mmol). The mixture was stirred for 10 hours. The mixture was concentrated in vacuo and the residue dissolved in dichloroethane (25 mL) and acetic acid (25 mL). The mixture was stirred for 48 hours at 85° C. The reaction was then cooled to room temperature and brought to pH=10 by addition of 1 M NaOH aqueous solution. The mixture was extracted with EtOAc (50 mL). The aqueous phase was back-extracted with additional EtOAc (2×50 mL). The organic phases were combined, dried with MgSO4, filtered and concentrated in vacuo. The residue was purified using silica gel flash chromatography ([2.5%. MeOH+0.5% NH4OH aq] in CH2Cl2) to provide 1.02 g of the title compound 3-(cyclopropylmethyl)-2-[(4-ethoxyphenyl)methyl]-6-nitro-3H-imidazo[4,5-b]pyridine (76.0% yield from N2-(cyclopropylmethyl)-5-nitro-2,3-pyridinediamine). 1H-NMR (400 MHz, CDCl3): δ 0.44 (m, 2H), 0.52 (m, 2H), 1.10 (m, 1H), 1.40 (t, J=6.8 Hz, 3H), 4.01 (q, J=6.8 Hz, 2H), 4.10 (d, J=7.2 Hz, 2H), 4.35 (s, 2H), 6.86 (d, J=8.8 Hz, 2H), 7.18 (d, J=8.8 Hz, 2H), 8.80 (d, J=2.3 Hz, 1H) 9.26 (d, J=2.3 Hz, 1H). MS (ESI) (M+H)+: 353.

reactant | N2-(cyclopropylmethyl)-5-nitro-2,3-pyridinediamine | 3.80 mmol, 792 mg | C1(CC1)CNC1=NC=C(C=C1N)[N+](=O)[O-] | C9H12N4O2
reactant | 4-ethoxy-benzeneacetyl chloride | 4.00 mmol, 795 mg | C(C)OC1=CC=C(C=C1)CC(=O)Cl | C10H11ClO2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(cyclopropylmethyl)-2-[(4-ethoxyphenyl)methyl]-6-nitro-3H-imidazo[4,5-b]pyridine | 76.0% yield | C1(CC1)CN1C(=NC=2C1=NC=C(C2)[N+](=O)[O-])CC2=CC=C(C=C2)OCC | C19H20N4O3
